US05399543
A mixture of 11.4 grams (0.067 mole) of 2-fluoro-4-methoxynitrobenzene and 0.4 gram of platinum oxide catalyst in 100 mL of ethanol was placed in a hydrogenation bottle and hydrogenated at 50 psi using a Parr hydrogenator. The completion of the hydrogenation required about two hours. After this time the reaction mixture was filtered to remove the catalyst. The filtrate was concentrated under reduced pressure, yielding 8.8 grams of 2-fluoro-4-methoxyaniline. The NMR spectrum was consistent with the proposed structure.

reactant | 2-fluoro-4-methoxynitrobenzene | 0.067 mole, 11.4 grams | FC1=C(C=CC(=C1)OC)[N+](=O)[O-] | C7H6FNO3
catalyst | platinum oxide | 0.4 gram | [Pt]=O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2-fluoro-4-methoxyaniline | 8.8 grams | FC1=C(N)C=CC(=C1)OC | C7H8FNO
